US06462032B1
5-Bromo-1,3-dihydro-3,3-diethyl-[2H]-indol-2-one
A solution of 3,3-diethylindol-2-one (8 g, 40 mmol) and sodium acetate (4 g, 48 mmol) in aceticacid (100 ml) was treated with bromine (6.4 g, 40 mmol). After 30 min. the mixture was diluted with water and extracted with EtOAc (2×); the combined organic layers were washed with water, sat. sodium hydrogen carbonate solution, then brine, dried (MgSO4) and evaporated to afford the crude product (7.6 g, 75%). A sample was recrystallized from EtOAc/hexane to obtain the title compound, m.p. 164-165° C.; 1H-NMR (DMSO-d6) δ 10.45 (s, 1H), 7.41-7.40(d, 1H, J=2.2 Hz), 7.34-7.31 (m, 1H), 6.78-6.76 (d, 1H J=8.2 Hz), 1.78-1.65 (t, 4H), 0.50-0.46 (m, 6H); MS (−ESI) m/z 266/268 (M−H).

reactant | 3,3-diethylindol-2-one | 40 mmol, 8 g | C(C)C1(C(NC2=CC=CC=C12)=O)CC | C12H15NO
reactant | sodium acetate | 48 mmol, 4 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 40 mmol, 6.4 g | BrBr | Br2
solvent | aceticacid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-Bromo-1,3-dihydro-3,3-diethyl-[2H]-indol-2-one | BrC=1C=C2C(C(NC2=CC1)=O)(CC)CC | C12H14BrNO
